US07446118B2
To a −40° C. solution of 2-bromo-4-nitro-anisole (1.16 g, 5 mmol) in THF (10 ml) was added vinylmagnesium bromide (1M in THF, 15 ml). The reaction mixture was stirred for 30 min while allowing the temperature to rise to −20° C. The reaction was quenched by addition of a saturated solution of NH4Cl, diluted with Et2O, and the aqueous layer was extracted twice with Et2O. The combined organic layers were dried over Na2SO4, filtered, concentrated, and purified via flash chromatography (hexane/EtOAc) to provide 4-bromo-5-methoxyindole XLVI (38 mg, 3% yield) as an oil.

reactant | 2-bromo-4-nitro-anisole | 5 mmol, 1.16 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | vinylmagnesium bromide | 1M, 15 ml | C(=C)[Mg]Br
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-bromo-5-methoxyindole | 3% yield | BrC1=C2C=CNC2=CC=C1OC | C9H8BrNO
